* File: Bclkgen.pex.spi.pex
* Created: Mon Oct 30 21:48:42 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BCLKGEN_TRIGGER 5 9 22
c0 18 0 0.873982f
c1 15 0 0.109512f
c2 13 0 0.14346f
c3 9 0 0.27791f
c4 5 0 0.307218f
r5 18 22 0.57005
r6 18 19 8
r7 13 19 0.0752128
r8 12 15 6.39574
r9 12 13 13.2552
r10 7 15 4.25716
r11 7 9 77.85
r12 3 15 4.25716
r13 3 5 92.7
.ends

.subckt PM_BCLKGEN_NET69 5 8 32 33 37
c0 40 0 0.160371f
c1 37 0 0.065065f
c2 36 0 0.698968f
c3 27 0 0.124333f
c4 16 0 0.21909f
c5 14 0 0.102857f
c6 12 0 0.141136f
c7 8 0 0.339625f
c8 3 0 0.103783f
r9 39 40 4.08318
r10 37 39 1.143
r11 35 36 2.72212
r12 33 35 0.768
r13 32 35 0.762
r14 30 31 8
r15 28 36 0.585
r16 27 30 0.000175
r17 27 28 0.00871254
r18 26 40 0.207
r19 26 27 0.12425
r20 16 31 0.22035
r21 16 17 8
r22 12 17 0.0752128
r23 11 14 6.20426
r24 11 12 13.2552
r25 6 14 4.73303
r26 6 8 131
r27 3 14 4.73303
r28 3 5 33.5
.ends

.subckt PM_BCLKGEN_NET68 8 13 26 29
c0 46 0 0.15149f
c1 37 0 0.0803814f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.253467f
c7 11 0 0.412269f
c8 10 0 0.00819556f
c9 6 0 0.0424882f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_NET67 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_NET66 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_NET65 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_NET64 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0711507f
c2 35 0 0.1024f
c3 33 0 0.138557f
c4 29 0 0.343371f
c5 24 0 0.102167f
c6 16 0 0.25728f
c7 11 0 0.413487f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_NET63 8 13 35 39 43 47
c0 66 0 0.0721631f
c1 63 0 0.140614f
c2 62 0 0.272296f
c3 59 0 0.103069f
c4 57 0 0.137455f
c5 52 0 0.108406f
c6 47 0 0.111727f
c7 43 0 0.18567f
c8 39 0 0.294172f
c9 35 0 0.307464f
c10 27 0 0.0948059f
c11 26 0 0.0470469f
c12 25 0 0.0499095f
c13 24 0 1.05983f
c14 16 0 0.270993f
c15 11 0 0.347764f
c16 6 0 0.0324051f
r17 66 67 8
r18 62 63 8
r19 57 67 0.0752128
r20 56 59 6.20426
r21 56 57 13.2552
r22 53 63 0.0752128
r23 52 53 13.2552
r24 49 52 6.43404
r25 45 59 4.73303
r26 45 47 36.5
r27 41 59 4.73303
r28 41 43 65.5
r29 37 49 4.25716
r30 37 39 77.85
r31 33 49 4.25716
r32 33 35 92.7
r33 29 66 0.09568
r34 28 62 0.2847
r35 26 27 0.2522
r36 25 28 0.0363174
r37 24 27 0.0363174
r38 24 25 1.55675
r39 15 16 8.16635
r40 13 15 2.304
r41 10 11 2.72212
r42 8 10 0.768
r43 7 26 0.0181587
r44 7 29 0.0181587
r45 6 7 8
r46 4 11 0.407
r47 4 6 0.0397132
r48 3 16 0.269
r49 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_CLKOUT 8 13 19
c0 19 0 0.632872f
c1 16 0 0.105571f
c2 11 0 0.310107f
c3 6 0 0.0385265f
r4 15 16 8.16635
r5 13 15 2.304
r6 10 11 3.26654
r7 8 10 0.862921
r8 6 19 8
r9 4 11 0.489
r10 4 6 0.0397132
r11 3 16 0.091
r12 3 6 0.0397132
.ends

.subckt PM_BCLKGEN_VSS 7 15 38 61 84 107 130 180 212 217 222
c0 225 0 0.127147f
c1 220 0 0.0853608f
c2 215 0 0.101988f
c3 210 0 0.0434082f
c4 204 0 0.0262752f
c5 192 0 0.0221598f
c6 191 0 2.19812e-19
c7 188 0 0.0221598f
c8 187 0 0.00344173f
c9 184 0 0.0182116f
c10 183 0 0.303766f
c11 180 0 0.218359f
c12 177 0 0.0307069f
c13 174 0 0.1499f
c14 173 0 0.0475154f
c15 164 0 1.36659f
c16 133 0 0.162405f
c17 128 0 0.0271466f
c18 121 0 3.86924e-19
c19 110 0 0.16243f
c20 105 0 0.0271466f
c21 98 0 3.86924e-19
c22 87 0 0.16243f
c23 82 0 0.0271466f
c24 75 0 3.86924e-19
c25 64 0 0.16243f
c26 59 0 0.0271466f
c27 52 0 3.86924e-19
c28 41 0 0.16243f
c29 36 0 0.0271466f
c30 29 0 3.86924e-19
c31 18 0 0.138102f
c32 13 0 0.0271466f
c33 7 0 0.00498957f
c34 6 0 4.23269e-19
r35 224 225 8.16635
r36 222 224 2.286
r37 219 220 16.3327
r38 217 219 4.572
r39 214 215 4.08318
r40 212 214 1.152
r41 190 210 0.1032
r42 190 191 0.00770322
r43 189 225 0.215
r44 189 191 0.0296412
r45 186 204 0.1032
r46 186 187 0.00770322
r47 185 220 0.119
r48 185 187 0.0296412
r49 183 196 0.0319487
r50 183 184 0.00997344
r51 182 215 0.279
r52 182 184 0.0338099
r53 178 192 0.00997344
r54 178 180 0.0698205
r55 177 191 0.0296412
r56 176 192 0.0338099
r57 176 177 0.098
r58 175 188 0.00997344
r59 174 192 0.00997344
r60 174 175 0.0993162
r61 173 187 0.0296412
r62 172 188 0.0338099
r63 172 173 0.198
r64 170 171 0.129231
r65 169 170 0.129231
r66 168 169 0.129231
r67 167 168 0.129231
r68 166 167 0.129231
r69 165 184 0.00997344
r70 165 166 0.0774786
r71 164 188 0.00997344
r72 164 171 0.118761
r73 163 171 0.0457181
r74 162 170 0.0457181
r75 161 169 0.0457181
r76 160 168 0.0457181
r77 159 167 0.0457181
r78 158 166 0.0457181
r79 132 133 8.16635
r80 130 132 2.286
r81 120 128 0.1032
r82 120 121 0.00770322
r83 119 133 0.215
r84 119 121 0.0296412
r85 118 121 0.0296412
r86 118 163 0.098
r87 109 110 8.16635
r88 107 109 2.286
r89 97 105 0.1032
r90 97 98 0.00770322
r91 96 110 0.215
r92 96 98 0.0296412
r93 95 98 0.0296412
r94 95 162 0.098
r95 86 87 8.16635
r96 84 86 2.286
r97 74 82 0.1032
r98 74 75 0.00770322
r99 73 87 0.215
r100 73 75 0.0296412
r101 72 75 0.0296412
r102 72 161 0.098
r103 63 64 8.16635
r104 61 63 2.286
r105 51 59 0.1032
r106 51 52 0.00770322
r107 50 64 0.215
r108 50 52 0.0296412
r109 49 52 0.0296412
r110 49 160 0.098
r111 40 41 8.16635
r112 38 40 2.286
r113 28 36 0.1032
r114 28 29 0.00770322
r115 27 41 0.215
r116 27 29 0.0296412
r117 26 29 0.0296412
r118 26 159 0.098
r119 17 18 8.16635
r120 15 17 2.286
r121 7 210 8.16635
r122 7 204 8.16635
r123 7 196 5.44423
r124 7 128 8.16635
r125 7 105 8.16635
r126 7 82 8.16635
r127 7 59 8.16635
r128 7 36 8.16635
r129 7 13 8.16635
r130 5 13 0.1032
r131 5 6 0.00770322
r132 4 18 0.215
r133 4 6 0.0296412
r134 3 6 0.0296412
r135 3 158 0.098
.ends

.subckt PM_BCLKGEN_VDD 3 4 20 36 52 68 84 145 150 155 160 195
c0 181 0 0.252732f
c1 175 0 0.0245632f
c2 163 0 0.294478f
c3 158 0 0.173255f
c4 153 0 0.297056f
c5 152 0 0.0394557f
c6 148 0 0.309857f
c7 145 0 0.0646861f
c8 143 0 0.0221598f
c9 142 0 0.01142f
c10 138 0 0.149567f
c11 137 0 0.106995f
c12 123 0 0.30404f
c13 122 0 1.41325f
c14 87 0 0.374576f
c15 84 0 0.0101617f
c16 71 0 0.366298f
c17 68 0 0.0101617f
c18 55 0 0.366295f
c19 52 0 0.0101617f
c20 39 0 0.366295f
c21 36 0 0.0101617f
c22 23 0 0.366296f
c23 20 0 0.0101617f
c24 7 0 0.298669f
c25 4 0 0.0101617f
c26 3 0 0.00249178f
r27 191 192 0.0491248
r28 189 190 0.0457181
r29 185 186 0.0457181
r30 181 195 0.0350818
r31 181 191 0.0377007
r32 167 189 0.0424188
r33 167 185 0.0425385
r34 163 192 0.341
r35 162 163 3.26654
r36 160 162 0.85618
r37 157 158 8.16635
r38 155 157 2.286
r39 153 190 0.279
r40 152 153 2.72212
r41 150 152 0.768
r42 148 186 0.279
r43 147 148 2.72212
r44 145 147 0.762
r45 141 175 0.1032
r46 141 142 0.00770322
r47 140 158 0.129
r48 140 142 0.0296412
r49 139 143 0.00997344
r50 138 191 0.0113171
r51 138 139 0.0981197
r52 137 143 0.0338099
r53 136 142 0.0296412
r54 136 137 0.298
r55 123 189 0.0104701
r56 123 124 0.0774786
r57 122 143 0.00997344
r58 121 134 0.0457181
r59 120 132 0.0457181
r60 119 130 0.0457181
r61 118 128 0.0457181
r62 117 126 0.0457181
r63 116 124 0.0457181
r64 93 122 0.0774188
r65 93 134 0.0413419
r66 87 121 0.279
r67 86 87 2.72212
r68 84 86 0.762
r69 77 134 0.0878889
r70 77 132 0.0413419
r71 71 120 0.279
r72 70 71 2.72212
r73 68 70 0.762
r74 61 132 0.0878889
r75 61 130 0.0413419
r76 55 119 0.279
r77 54 55 2.72212
r78 52 54 0.762
r79 45 130 0.0878889
r80 45 128 0.0413419
r81 39 118 0.279
r82 38 39 2.72212
r83 36 38 0.762
r84 29 128 0.0878889
r85 29 126 0.0413419
r86 23 117 0.279
r87 22 23 2.72212
r88 20 22 0.762
r89 13 126 0.0878889
r90 13 124 0.0413419
r91 7 116 0.279
r92 6 7 2.72212
r93 4 6 0.762
r94 3 181 8.16635
r95 3 175 8.16635
r96 3 167 5.44423
r97 3 93 8.16635
r98 3 77 8.16635
r99 3 61 8.16635
r100 3 45 8.16635
r101 3 29 8.16635
r102 3 13 8.16635
.ends

.subckt PM_BCLKGEN_XI0.NET12 8 12 20 25
c0 28 0 0.188552f
c1 23 0 0.153235f
c2 18 0 0.10546f
c3 16 0 0.180279f
c4 12 0 0.200867f
c5 8 0 0.225237f
c6 5 0 0.0684372f
r7 27 28 16.3327
r8 25 27 4.608
r9 22 23 8.16635
r10 20 22 2.304
r11 15 18 6.20426
r12 15 16 13.2552
r13 10 18 4.73303
r14 10 12 78.25
r15 6 18 4.73303
r16 6 8 78
r17 4 16 0.17366
r18 4 5 0.001755
r19 3 23 0.189
r20 3 5 0.0375995
r21 2 28 0.265
r22 2 5 0.0375995
.ends

.subckt PM_BCLKGEN_XI1.NET18 1 2
r0 1 2 2.295
.ends

