* File: buf.pex.spi.pex
* Created: Mon Oct 30 15:23:23 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUF_A 5 9 18
c0 21 0 0.0486617f
c1 15 0 0.10297f
c2 13 0 0.144888f
c3 9 0 0.106369f
c4 5 0 0.154078f
r5 21 22 8
r6 18 21 0.02028
r7 13 22 0.0752128
r8 12 15 6.20426
r9 12 13 13.2552
r10 7 15 4.73303
r11 7 9 36.5
r12 3 15 4.73303
r13 3 5 53.5
.ends

.subckt PM_BUF_OUT 11 16 24
c0 24 0 0.0487833f
c1 19 0 0.187922f
c2 14 0 0.250992f
c3 10 0 0.0635479f
c4 5 0 0.039956f
r5 18 19 8.16635
r6 16 18 2.304
r7 13 14 3.26654
r8 11 13 0.862921
r9 9 14 0.311
r10 9 10 0.0375995
r11 8 19 0.221
r12 8 10 0.0375995
r13 6 24 0.02392
r14 5 6 8
r15 3 10 0.001755
r16 3 5 0.0463191
.ends

.subckt PM_BUF_NET12 6 11 18 22
c0 28 0 0.101302f
c1 26 0 0.179301f
c2 22 0 0.172356f
c3 18 0 0.175207f
c4 14 0 0.157246f
c5 9 0 0.151031f
c6 5 0 0.0684372f
r7 25 28 6.20426
r8 25 26 13.2552
r9 20 28 4.73303
r10 20 22 78.25
r11 16 28 4.73303
r12 16 18 66
r13 13 14 16.3327
r14 11 13 4.608
r15 8 9 8.16635
r16 6 8 2.304
r17 4 26 0.17366
r18 4 5 0.001755
r19 3 9 0.189
r20 3 5 0.0375995
r21 2 14 0.217
r22 2 5 0.0375995
.ends

.subckt PM_BUF_VSS 10 19 32 37
c0 40 0 0.123534f
c1 35 0 0.0717972f
c2 30 0 0.0259839f
c3 24 0 0.0265133f
c4 18 0 0.0221598f
c5 17 0 2.51664e-19
c6 14 0 3.46966e-19
c7 10 0 0.147688f
c8 7 0 0.0281081f
c9 5 0 0.118199f
c10 4 0 0.1499f
c11 3 0 0.0608239f
r12 39 40 8.16635
r13 37 39 2.286
r14 34 35 16.3327
r15 32 34 4.572
r16 19 30 8.16635
r17 19 24 8.16635
r18 16 30 0.1032
r19 16 17 0.00770322
r20 15 40 0.215
r21 15 17 0.0296412
r22 13 24 0.1032
r23 13 14 0.00770322
r24 12 35 0.119
r25 12 14 0.0296412
r26 8 18 0.00997344
r27 8 10 0.0708974
r28 7 17 0.0296412
r29 6 18 0.0338099
r30 6 7 0.098
r31 4 18 0.00997344
r32 4 5 0.0993162
r33 3 14 0.0296412
r34 2 5 0.0561881
r35 2 3 0.198
.ends

.subckt PM_BUF_VDD 9 10 15 38
c0 30 0 0.177469f
c1 24 0 0.0245459f
c2 18 0 0.279253f
c3 13 0 0.141756f
c4 8 0 3.7011e-19
c5 5 0 0.118278f
c6 4 0 0.149567f
c7 3 0 0.0936245f
r8 34 35 0.0491248
r9 30 38 0.0365004
r10 30 34 0.0377007
r11 18 35 0.341
r12 17 18 3.26654
r13 15 17 0.85618
r14 12 13 8.16635
r15 10 12 2.286
r16 9 30 8.16635
r17 9 24 8.16635
r18 7 24 0.1032
r19 7 8 0.00770322
r20 6 13 0.129
r21 6 8 0.0296412
r22 4 34 0.0113171
r23 4 5 0.0981197
r24 3 5 0.0561881
r25 2 8 0.0296412
r26 2 3 0.298
.ends

